Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Rocephin / Doxycycline / Penicillins / Prochlorperazine
 
Attending: ___
 
Chief Complaint:
Monocular painless left eye vision loss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ M with h/o HTN, HLD, , Crohn's
disease, diverticulitis, GERD, who presents with L-sided
mono-ocular painless visual loss.  Patient states that symptoms
of started 5 days ago (on ___, when he first noted that his
left eye was teary, noted that his vision has worsened out of 
the
left eye.  His vision got progressively worse over the next 
days.
On day 3 of symptoms (___) he was seen at the urgent care
clinic and was diagnosed w/ conjunctivits and given erythromycin
drops; however, that did not improve symptoms.  The following 
day
she had some pain around the left cheek, and thought that his
sinus issues have recurred, and 3 presented to urgent care 
clinic
on ___.  He recalls that the provider noted some swelling
around the left cheek area. He was started on prednisone burst
and azithromycin which she took for 1 day only.  The following
day, she was able to drive his cousin to her doctor's 
appointment
in the morning, things was as blurry as the day prior, but he
could still see out of the left eye.  At 4 ___ he had an
appointment at ___ and during the evaluation by
his doctor he first realized that he is ubable to see ouf of the
L eye. His vision out of that eye was moslty dark, he could only
see bright light and shade. He reports a few associated flashes
and possibly floaters. He denies any associated eye pain, pain
with eye movements, headaches, scalp and temporal tenderness. No
recent fevers, chills, weight loss, joint pains. He denies focal
numbness, tingling or weakness. He has never had similar
symptoms.

He was sent to ___ ED from ___ further
evaluation. Here he was evaluated by Ophthalmology who
recommended further evaluation by Neurology due to concern for
CRAO vs. GCA. 

NIHSS completed by ED provider at time of presentation: 0.

ROS:
10-point review of systems negative, except for HPI
 
Past Medical History:
Myopia
HTN
HLD
GERD
Chron's disease
Diverticulitis
Hypothyroidism
Gallbladder removal
Appendicitis
 
Social History:
___
Family History:
Patient denies any significant family history, including of 
stroke, clots, or heart disease (except for father who passed 
away at age ___ of complications from rheumatic heart disease).
 
Physical Exam:
Exam on Admission:
==================
VS: 97.6 HR: 86 BP: 100/69 Resp: 18 O2 Sat: 100

General:  NAD
 HEENT: NCAT,  no oropharyngeal lesions, neck supple
 ___: RRR, no M/R/G
 Pulmonary: CTAB, no crackles or wheezes
 Abdomen: Soft, NT, ND, +BS, no guarding
 Extremities: Warm, no edema
 Musk: No scalp tendrness

Neurologic Examination:
 - Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting 
on
the R. Visual acuity ___ on the R, only sees light and shadow
when examiner < 6in away from his face. EOMI, no nystagmus. 
V1-V3
without deficits to light touch bilaterally. No facial movement
asymmetry. Hearing intact to finger rub bilaterally.  Palate
elevation symmetric. SCM/Trapezius strength ___ bilaterally.
Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
   [___]
 L   5     5    5    5    ___    5     5   5    5    5
 R   5     5    5    5    ___    5     5   5    5    5  
  
 - Reflexes: 
    [Bic] [Tri] [___] [Quad] [Gastroc]
  L  2+    2+     2+      2+       1
  R  2+    2+     2+      2+       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg.

Exam on Discharge:

No changes noted, except for movement and shadows reported being 
visible in left eye.

Exam on Discharge:
==================
VS: Temp: 97.9 PO BP: 144/95 HR: 79 RR: 16 O2 sat: 96% O2
delivery: Ra FSBG: 110 

Exam
General: NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema
Musk: No scalp tenderness

Neurologic Examination:

Mental status: Awake, alert, oriented x 3. Able to relate 
history
without difficulty. Fluent speech, no errors. 

Cranial Nerves: 
- Right pupil 3.5->2 briskly reactive. 
- Left afferent pupillary defect. 
- VF full to number counting on the R. 
- On the left, he is able to recognize movement of hand in
periphery, but cannot count numbers. 
- EOMI bilaterally 
- V1-V3 without deficits to light touch bilaterally. 
- No facial movement asymmetry. 
- Hearing intact to finger rub bilaterally.  
- Palate elevation symmetric. 
- SCM/Trapezius strength ___ bilaterally. 
- Tongue midline.

Motor: Normal bulk and tone. No drift. No tremor. ___ strength
throughout 

Reflexes: 
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     2
R   2     2      2      2     2 

Plantar response was flexor bilaterally.

Sensory: No deficits to light touch.

Gait: Steady, narrow based, normal arm swing.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:41AM   GLUCOSE-104* UREA N-19 CREAT-1.1 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-23 ANION GAP-14
___ 09:41AM   CALCIUM-8.9 PHOSPHATE-3.9 MAGNESIUM-1.9 
CHOLEST-189
___ 09:41AM   TRIGLYCER-145 HDL CHOL-39* CHOL/HDL-4.8 
LDL(CALC)-121
___ 09:41AM   TSH-5.4*
___ 09:41AM   WBC-11.8* RBC-4.59* HGB-14.0 HCT-40.3 MCV-88 
MCH-30.5 MCHC-34.7 RDW-13.2 RDWSD-42.3
___ 09:41AM   PLT COUNT-235
___ 08:47PM   %HbA1c-6.0 eAG-126
___ 08:36PM   GLUCOSE-109* UREA N-16 CREAT-1.2 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-25 ANION GAP-14
___ 08:36PM   estGFR-Using this
___ 08:36PM   ALT(SGPT)-21 AST(SGOT)-21 ALK PHOS-131* TOT 
BILI-0.4
___ 08:36PM   CK-MB-2 cTropnT-<0.01
___ 08:36PM   ALBUMIN-4.7 CALCIUM-10.0 PHOSPHATE-3.5 
MAGNESIUM-2.0
___ 08:36PM   ___
___ 08:36PM   CRP-3.2
___ 08:36PM URINE  HOURS-RANDOM
___ 08:36PM URINE  HOURS-RANDOM
___ 08:36PM URINE  HOURS-RANDOM
___ 08:36PM URINE  UHOLD-HOLD
___ 08:36PM URINE  GR HOLD-HOLD
___ 08:36PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 08:36PM   WBC-17.5* RBC-4.56* HGB-14.1 HCT-40.2 MCV-88 
MCH-30.9 MCHC-35.1 RDW-13.3 RDWSD-42.6
___ 08:36PM   NEUTS-70.1 ___ MONOS-5.9 EOS-0.1* 
BASOS-0.5 IM ___ AbsNeut-12.28* AbsLymp-4.02* AbsMono-1.03* 
AbsEos-0.02* AbsBaso-0.08
___ 08:36PM   PLT COUNT-238

PENDING:
========
___ 01:06PM BLOOD ProtSFn-PND
___ 01:06PM BLOOD Lupus-PND
___ 01:06PM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-PND
___ 01:06PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
___ 08:36PM BLOOD SED RATE-Test    

IMAGING:
========
___ CHEST (PA & LAT): PA and lateral views of the chest 
provided.  Lungs are clear. There is no focal consolidation, 
effusion, or pneumothorax.  There are no signs ofcongestion or 
edema.  The  cardiomediastinal silhouette is normal. Imaged 
osseous structures are intact.  No free air below the right 
hemidiaphragm is seen. 
Impression: no acute intrathoracic process.

___ CTA HEAD AND CTA NECK: 
CT Head: No acute large vascular territorial infarction or 
intracranial
hemorrhage.

CT Head and Neck: There are mild atherosclerotic calcifications 
along
bilateral carotid bulbs. The carotid and vertebral arteries are 
patent
without flow-limiting stenosis, occlusion, or dissection. The 
principal
vessels of the circle of ___ and their primary intracranial 
branches are
patent without flow-limiting stenosis, occlusion, or aneurysm 
greater than 3 mm.

___ MRI BRAIN AND ORBITS: 
MRI Brain: There is no evidence of hemorrhage, edema, masses, 
mass effect,
midline shift orinfarction.  Hyperdense DWI lesion most likely 
represent T2
shine through given corresponding lesions on the T2/FLAIR 
sequences and no ADC correlate. There are scattered T2/FLAIR 
hyperintensities in the cerebral hemispheres bilaterally, a 
nonspecific finding and likely related to chronic small vessel 
ischemic changes. There is no abnormal enhancement after 
contrast administration.
 
There is generalized parenchymal volume loss, likely age related 
but more than expected for the patient's age group.  Prominence 
of the ventricular system and extra-axial CSF spaces is 
consistent with the previously mentioned parenchymal volume 
loss. Major vascular flow voids are preserved.  Major dural 
venous sinuses are patent.
 
There is mucosal thickening in the right frontal sinus and along 
the ethmoid air cells.  A mucous retention seen in the right 
sphenoid sinus.  The mastoid air cells are clear.  The orbits 
appear unremarkable.
 
MRI Orbits: Examination of the orbits is limited due to motion 
artifact. 
Allowing for this limitation, the bony orbits and preseptal soft 
tissues are normal. The globes are intact and normal in 
appearance. The optic nerves and complex are normal, without 
edema or abnormal enhancement. The extraocular muscles are 
uniform in size and normal in signal. The lacrimal apparatus is 
normal. Retrobulbar soft tissues are normal. Please note that 
the central retinal artery cannot be visualized by MRI. Usually, 
the of ophthalmic artery is seen, however, due to the motion 
artifact the bilateral tonic arteries also not visualized.

Impression: 
1. Unremarkable MRI of the brain without evidence of acute 
infarction,
hemorrhage or mass. 
2. Nonspecific and nonenhancing white matter lesions in the 
cerebral
hemispheres bilaterally likely represent sequela of chronic 
small vessel
ischemic changes.
3. Limited evaluation of the orbits due to motion artifact. 
Allowing for this limitation, no orbital pathology identified.
4. Please note that MRI does not visualize the central retinal 
artery and is therefore not the appropriate exam for detection 
of central retinal artery occlusions.

___ TRANSTHORACIC ECHOCARDIOGRAM:
The left atrial volume index is normal. There is no evidence for 
a right-to-left shunt with agitated saline at rest and with 
maneuvers. There is normal left ventricular wall thickness with 
a normal cavity size. There is normal regional left ventricular 
systolic function. Overall left ventricular systolic function is 
hyperdynamic. Quantitative biplane left ventricular ejection 
fraction is 75 %. Left ventricular cardiac index is normal (>2.5 
L/min/m2). There is no resting left ventricular outflow tract 
gradient. Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. There is no evidence for an aortic arch 
coarctation. The aortic valve leaflets (?#) appear structurally 
normal. There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is trivial mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is high normal. 
There is no pericardial effusion.

Impression: Normal biventricular cavity sizes, and regional 
systolic function with hyperdynamic global systolic function. No 
valvular pathology or pathologic flow identified. High normal 
estimated pulmonary artery systolic pressure. No definite 
structural cardiac source of embolism identified.

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a history of HTN, HLD, 
Crohn's disease, diverticulitis, and GERD, whom presented with 
left-sided monocular painless visual loss. His exam was notable 
for left eye vision loss but is otherwise non-focal. His 
presentation was most concerning for CRAO, and no classic 
features of GCA were present; additionally, ESR/CRP were 
negative. Other stroke risk factors included LDL (121) and A1c 
(6). 

# Central Retinal Artery Occlusion: Given the patient's 
presentation, a workup was conducted to assess the potential 
etiologies for ischemic stroke. CTA head yielded no evidence of 
acute large vascular territorial infarctions or intracranial
hemorrhages. No persistent occlusion of the retinal artery was 
appreciated. CT Head and Neck showed mild atherosclerotic 
calcifications along bilateral carotid bulbs, but both carotids 
and both vertebral arteries were patent, without flow-limiting 
stenosis, occlusion, or dissection. The circle of ___ and 
it's primary intracranial branches were also patent without 
flow-limiting stenosis, occlusion, or notable aneurysms. An MRI 
brain with orbits, though not appropriate for visualizing the 
central retinal artery, yielded no evidence of hemorrhage, 
edema, masses, mass effect, midline shift or infarction. 

A TTE with bubble study conducted to determine if any 
cardioembolic etiology resulting from anatomical abnormalities 
(i.e. PFO) was present; this was negative.

Stroke labs; ESR and CRP were negative, and D-dimer was normal, 
however. A1c was 6%. LDL was 121, and Increased LDL post-stroke 
was identified as a risk factor for future stroke. A 
hypercoaguable workup including anti-phospholipid antibodies 
(results pending) and Factor V Leiden prothrombin mutation 
analysis (___ mutation; ordered for outpatient) was also 
explored. 

Aspirin at 81 mg daily and Atorvastatin were initiated. ___ 
were consulted. Upon passing swallow test, the patient was 
written for a general diet. The patient was kept on VTE 
prophylaxis via Heparin SC.

Upon discharge, the patient reported no changes in left 
monocular visual loss. 

# Headache: The patient also reported a headache beginning 
___ afternoon, originating in the left occiput, and 
radiating globally. He was initiated on Tylenol PO, which 
palliated the pain. On ___ evening, he was given Tramadol x1 
for increased pain. Upon discharge, his pain was managed with 
Tylenol PO.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 137 mcg PO DAILY 
2. amLODIPine 2.5 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*3 
3.  amLODIPine 2.5 mg PO DAILY  
4.  Levothyroxine Sodium 137 mcg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Central retinal artery occlusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 You were hospitalized due to symptoms of visual loss resulting 
from an CENTRAL RETINAL ARTERY OCCLUSION, which is condition 
where a blood vessel providing oxygen and nutrients to the 
retina is blocked by a clot. The retina is the part of your eye 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 - High cholesterol
 - High blood pressure (hypertension)
 - Evidence of prior stroke on MRI
 
 We are changing your medications as follows:  
 - Start taking aspirin 81mg daily
 - Start taking atorvastatin 40mg daily
  
 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___